US04118558
(B) N-Ethyl-4-[[2-phenyl-6-(phenylmethylene)-1-cyclohexen-1-yl]oxy]butanamine
1-Bromo-4-[[2-phenyl-6-(phenylmethylene)-1-cyclohexen-1-yl]oxy]butane is dissolved in toluene, treated with two equivalents of ethyl amine and allowed to stand at room temperature for 1 day, and washed with potassium carbonate solution. Evaporation of the toluene yields the title compound.

reactant | 1-Bromo-4-[[2-phenyl-6-(phenylmethylene)-1-cyclohexen-1-yl]oxy]butane | BrCCCCOC1=C(CCCC1=CC1=CC=CC=C1)C1=CC=CC=C1 | C23H25BrO
reactant | ethyl amine | two equivalents | C(C)N | C2H7N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-4-[[2-phenyl-6-(phenylmethylene)-1-cyclohexen-1-yl]oxy]butanamine | C(C)NCCCCOC1=C(CCCC1=CC1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO
